### PR TITLE
Exercise 2.17: type formers respect equivalences and the coherences between proofs

### PR DESCRIPTION
**Pull request by Theongck**

### CODE REVIEW

File: contrib/HoTTBookExercises.v [hunk 1]
```diff
@@ -697,7 +697,214 @@ Definition Book_2_16 := @HoTT.Metatheory.FunextVarieties.NaiveFunext_implies_Fun
...
+  reflexivity.
+Defined.
+
+Definition how_to_name_this_2 {A A' : Type} {B : A -> Type} {B' : A' -> Type}
+  (p : A' = A)
+  : (transport (fun A0 => A0 -> Type) p^ B = B') <~> B o (transport idmap p) = B'.
+Proof.
+  destruct p.
+  reflexivity.
+Defined.
```
Comment (Theongck) [inline contrib/HoTTBookExercises.v:746]: I had a hard time thinking of a name for these (not even sure whether they have been proved elsewhere already). Any suggestion is welcome.

File: theories/Types/Sigma.v [hunk 2]
```diff
@@ -397,20 +397,22 @@ Global Instance isequiv_functor_sigma `{P : A -> Type} `{Q : B -> Type}
   `{IsEquiv A B f} `{forall a, @IsEquiv (P a) (Q (f a)) (g a)}
   : IsEquiv (functor_sigma f g) | 1000.
 Proof.
-  refine (isequiv_adjointify (functor_sigma f g)
-                             (functor_sigma (f^-1)
-                                            (fun x y => ((g (f^-1 x))^-1 ((eisretr f x)^ # y)))) _ _);
-  intros [x y].
-  - refine (path_sigma' _ (eisretr f x) _); simpl.
+  snrapply isequiv_adjointify.
+  - nrapply (functor_sigma f^-1 _).
```
Comment (jdchristensen) [inline theories/Types/Sigma.v:401]: `nrapply` automatically adds underscores as needed.
```suggestion
  - nrapply (functor_sigma f^-1).
```

File: theories/Types/Sigma.v [hunk 3]
```diff
@@ -397,20 +397,22 @@ Global Instance isequiv_functor_sigma `{P : A -> Type} `{Q : B -> Type}
...
+    exact (fun b q => (g (f^-1 b))^-1 ((transport Q (eisretr f b)^) q)).
+  - intros [b q].
+    apply (path_sigma' _ (eisretr f _)); simpl.
     abstract (
```
Comment (jdchristensen) [inline theories/Types/Sigma.v:405]: abstract can be removed.  If there are other places, I won't comment on them separately.

File: theories/Types/Sum.v [hunk 4]
```diff
@@ -589,14 +589,24 @@ Defined.
...
-           (functor_sum f^-1 g^-1));
-  [ intros [?|?]; simpl; apply ap; apply eisretr
-  | intros [?|?]; simpl; apply ap; apply eissect ].
+  snrapply Build_IsEquiv.
+  - exact (functor_sum f^-1 g^-1).
+  - intros [?|?]; simpl; apply ap; apply eisretr.
+  - intros [?|?]; simpl; apply ap; apply eissect.
+  - intros [?|?]; simpl; lhs nrapply (ap _ (eisadj _ _)).
+    + exact (ap_functor_sum_inl _ _ _)^.
+    + exact (ap_functor_sum_inr _ _ _)^.
```
Comment (jdchristensen) [inline theories/Types/Sum.v:609]: You can use the `symmetry` trick to simplify this a bit.

File: contrib/HoTTBookExercises.v [hunk 5]
```diff
@@ -697,7 +697,214 @@ Definition Book_2_16 := @HoTT.Metatheory.FunextVarieties.NaiveFunext_implies_Fun
...
+    clear f g.
+    destruct p, q.
+    reflexivity.
+  Defined.
+
+  Theorem Book_2_17_eq_prod `{Univalence}
+    : Book_2_17_ii_prod = Book_2_17_i_prod.
+  Proof.
+    apply path_equiv; simpl.
+    lhs nrapply (Book_2_17_eq_prod' _ _).
```
Comment (jdchristensen) [inline contrib/HoTTBookExercises.v:725]:
```suggestion
    lhs nrapply Book_2_17_eq_prod'.
```

File: contrib/HoTTBookExercises.v (hunk 1 above)
Comment (jdchristensen) [reply contrib/HoTTBookExercises.v:746]: This is related to `transport_arrow_toconst` combined with `equiv_concat_l` and `_r`, and I wonder if you can rework things to use those more fundamental results instead?

**Review by jdchristensen — COMMENTED** [review]
Thanks for this nice work.  So far I (quickly) reviewed the core library changes and just the `prod` part of the changes to HoTTBookExercises.v.

File: theories/Homotopy/BlakersMassey.v [hunk 6]
```diff
@@ -495,8 +495,7 @@ Now we claim that the left-hand map of this span is also an equivalence.  Rather
       Transparent frobnicate.
       cbn.
       Opaque frobnicate.
-      rewrite (transport_compose (fun q => glue q @ (glue q01)^ = 1%path) pr1).
-      unfold path_sigma'; rewrite ap_V, ap_pr1_path_sigma, transport_1.
```
[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/Homotopy/BlakersMassey.v:499]: The opaque term that appears in master is called `isequiv_functor_sigma_subproof`, so this improvement must be because the `abstract` wrappers in `isequiv_functor_sigma` were removed.  Nice!

**Comment by Theongck** [comment]
> @Theongck Is it ok if I push a minor change to BlakersMassey.v?

Please feel free to do so.

File: contrib/HoTTBookExercises.v [hunk 7]
```diff
@@ -697,7 +697,201 @@ Definition Book_2_16 := @HoTT.Metatheory.FunextVarieties.NaiveFunext_implies_Fun
...
+
+Section Book_2_17_sigma.
+  Context {A A' : Type} {B : A -> Type} {B' : A' -> Type}
+    (f : A <~> A') (g : forall a, B a <~> B' (f a)).
+
+  Definition Book_2_17_i_sigma : (exists a, B a) <~> (exists a', B' a')
+    := HoTT.Types.Sigma.equiv_functor_sigma' f g.
+
+  Definition Book_2_17_ii_sigma `{Univalence}
+    : (exists a, B a) <~> (exists a', B' a').
```
[the remark this answers is not in the document]
Comment (jdchristensen) [reply contrib/HoTTBookExercises.v:740]: Can you replace the `(exist a, B a)` notation with `{a : A & B a}`, to match what is used elsewhere and what Coq displays?

File: contrib/HoTTBookExercises.v [hunk 8]
```diff
@@ -697,7 +697,203 @@ Definition Book_2_16 := @HoTT.Metatheory.FunextVarieties.NaiveFunext_implies_Fun
...
+      apply g.
+  Defined.
+
+  Definition Book_2_17_eq_sigma' (p : A = A')
+    (q : B = B' o (transport idmap p))
+    : transport idmap
+        (ap011D (@sig) p
+           (moveR_transport_p _ _ _ _
+              (transport (fun p0 => B = B' o (_ p0)) (inv_V p)^ q
+                 @ (transport_arrow_toconst' p^ B')^)))
```
Comment (jdchristensen) [inline contrib/HoTTBookExercises.v:761]: I see now why you named this proof earlier, since it appears once in tactic form and again in the statement of this helper lemma.  If you try equivalence induction and it works, then maybe this would be cleaner.  Otherwise, maybe it is better to use a named result to avoid repetition.  (I hadn't read this far before, so I didn't realize that removing the helper functions would cause duplication.)

Comment (jdchristensen) [reply contrib/HoTTBookExercises.v:761]: But looking at the diff, I see that overall the file got 12 lines shorter with the commit that removed those named helpers, so I guess that overall it's better the new way.  It would just be nice if there was a way to avoid the helper results with long statements, but it's fine if there's nothing easy to do.

File: theories/Types/Prod.v [hunk 9]
```diff
@@ -237,19 +237,17 @@ Defined.
...
+  - exact (functor_prod f^-1 g^-1).
+  - intro z.
+    exact (path_prod' (eisretr f _) (eisretr g _)).
+  - intro w.
+    exact (path_prod' (eissect f _) (eissect g _)).
+  - intros [a b]; simpl.
+    lhs nrapply (ap (fun p => path_prod' p _) (eisadj f _)).
+    lhs nrapply (ap _ (eisadj g _)).
+    symmetry.
+    nrapply ap_functor_prod.
```
Comment (Alizter) [inline theories/Types/Prod.v:250]:
```suggestion
    rhs nrapply ap_functor_prod.
    nrapply (ap _ (eisadj g _)).
```

File: theories/Types/Sum.v [hunk 10]
```diff
@@ -589,14 +589,24 @@ Defined.
...
-           (functor_sum f^-1 g^-1));
-  [ intros [?|?]; simpl; apply ap; apply eisretr
-  | intros [?|?]; simpl; apply ap; apply eissect ].
+  snrapply Build_IsEquiv.
+  - exact (functor_sum f^-1 g^-1).
+  - intros [?|?]; simpl; apply ap; apply eisretr.
+  - intros [?|?]; simpl; apply ap; apply eissect.
+  - intros [?|?]; simpl; lhs nrapply (ap _ (eisadj _ _)); symmetry.
+    + apply ap_functor_sum_inl.
+    + apply ap_functor_sum_inr.
```
Comment (Alizter) [inline theories/Types/Sum.v:609]: The lemmas above are a bit too specialised. We can do something like
```suggestion
    + exact ((ap_compose inl _ _)^ @ ap_compose f inl _).
    + exact ((ap_compose inr _ _)^ @ ap_compose g inr _).
```
instead. You can get rid of those lemmas too.

**Comment by jdchristensen** [comment]
I'll be away from my computer for a day or so.  I approve the parts I checked (all of the library changes and the first part of the exercises changes).  The `equiv_induction` suggestion is optional, and the change of notation should be done but is trivial.  @Alizter , if you get a chance to check the rest of the exercises file and approve that, feel free to merge.

File: theories/Types/Sum.v [hunk 11]
```diff
@@ -589,14 +589,24 @@ Defined.
...
 (** ** Functoriality on equivalences *)
 
+Definition ap_functor_sum_inl {A A' B B' : Type} (f : A -> A') (g : B -> B') {a a' : A} (p : a = a')
+  : ap (functor_sum f g) (ap inl p) = ap inl (ap f p)
+  := match p with 1 => 1 end.
+
+Definition ap_functor_sum_inr {A A' B B' : Type} (f : A -> A') (g : B -> B') {b b' : B} (p : b = b')
+  : ap (functor_sum f g) (ap inr p) = ap inr (ap g p)
+  := match p with 1 => 1 end.
+
```
Comment (Theongck) [inline theories/Types/Sum.v:599]:
```suggestion
```

File: contrib/HoTTBookExercises.v (hunk 8 above)
Comment (Theongck) [reply contrib/HoTTBookExercises.v]: I have put back the helper functions (now defined by the fundamental results) for better readability.

File: contrib/HoTTBookExercises.v (hunk 7 above)
[the remark this answers is not in the document]
Comment (Theongck) [reply contrib/HoTTBookExercises.v]: I'll leave these results as they are for now.

**Comment by Alizter** [comment]
Thanks for the additions!
